US04959361
6-(2-Fluorophenyl)-1-methyl-8-[3-(1H-indazol-1-yl)-1-propynyl]-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine
This compound was obtained as described in example 17 by reaction of 6-(2-fluorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine with 1-(2-propynyl) 1H-indazole [ref. p. V. Tkachenko, I. I. popov, A. M. Simonov and Yu. V. Medvedov, Khim. Geterotsikl. Soedin. 11, 1542 (1975)]. The chromatographically isolated product was crystallized from ethyl acetate to give yellowish crystals with m.p. 148°-151° C.

reactant | 6-(2-fluorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12FIN4
reactant | 1-(2-propynyl) 1H-indazole | C(C#C)N1N=CC2=CC=CC=C12 | C10H8N2
product | 6-(2-Fluorophenyl)-1-methyl-8-[3-(1H-indazol-1-yl)-1-propynyl]-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CCN3N=CC1=CC=CC=C31)C(=NN2)C | C27H19FN6
